US04395561
Epichlorohydrin (187 g, 2.0 mol) was added dropwise over a 75 minute period to a mechanically stirred suspension of 10.0 g (0.062 mol) of anhydrous ferric chloride in 138 mL (2.4 mol) of glacial acetic acid at 0°-10° C. After the addition was completed, the reaction mixture was stirred one hour and was allowed to stand at room temperature for two days. Anhydrous sodium acetate (5.1 g, 0.062 mol) was added and excess acetic acid was then removed in vacuo. The mixture was diluted with 200 mL of methylene chloride and filtered through Celite™ (i.e. diatomaceous earth). The solution was washed with 10% potassium carbonate and dried over potassium carbonate and sodium sulfate. Removal of the methylene chloride in vacuo gave 275 g of crude 3-chloro-2-hydroxy-1-propyl acetate, and an additional 9 g was recovered by extracting the potassium carbonate solution with methylene chloride (93% crude yield). This material was used without purification in the subsequent step. 1H NMR (CDCl3) δ2.10 (s, 3H, --COCH3); 3.80 (m, 6H, --CH2CH(OH)CH2 --); IR (film) 3500 (--OH); 1735 cm-1 (--COCH3).

reactant | Epichlorohydrin | 2.0 mol, 187 g | C(Cl)C1CO1 | C3H5ClO
reactant | acetic acid | 2.4 mol, 138 mL | C(C)(=O)O | C2H4O2
catalyst | sodium acetate | 0.062 mol, 5.1 g | C(C)(=O)[O-].[Na+]
product | 3-chloro-2-hydroxy-1-propyl acetate | 275 g | C(C)(=O)OCC(CCl)O | C5H9ClO3
